US04462923
A solution of 13.85 g of trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylic acid, 260 ml of chloroform and 7.8 ml of triethylamine is cooled to 2° C. and treated with 5.32 ml of ethyl chloroformate. The mixture is stirred at 2° C. for 15 minutes and then a strong stream of ammonia gas is conducted in for 10 minutes (while cooling with an ice-bath). The resulting suspension is stirred at 20° C. for a further 1 hour and then evaporated in vacuo. The solid residue is stirred up with 210 ml of water for 45 minutes and then filtered off under suction and dried. There are obtained 9.6 g of crude trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxamide (m.p. 234°-235° C.) which can be purified by sublimation at 175° C./0.05 mmHg; m.p. 249.3°-250.5° C.

reactant | trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylic acid | 13.85 g | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C(=O)O | C14H20N2O2
reactant | chloroform | 260 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl chloroformate | 5.32 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
solvent | triethylamine | 7.8 ml | C(C)N(CC)CC | C6H15N
product | trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxamide | 9.6 g | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C(=O)N | C14H21N3O
